US04260775
1-acetyl-3-anilino-4-methoxycarbonyl-5-methylpyrazole
23 g of 3-anilino-4-methoxycarbonyl-5-methylpyrazole is dissolved in 51 g of acetic anhydride and brought to the boil. After 15 minutes' boiling the mixture is allowed to cool, poured into ice water and stirred for 30 minutes. The solid which separates is isolated and recrystallized from methanol; m.p. 115°-116° C.

reactant | 3-anilino-4-methoxycarbonyl-5-methylpyrazole | 23 g | N(C1=CC=CC=C1)C1=NNC(=C1C(=O)OC)C | C12H13N3O2
reactant | acetic anhydride | 51 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-anilino-4-methoxycarbonyl-5-methylpyrazole | C(C)(=O)N1N=C(C(=C1C)C(=O)OC)NC1=CC=CC=C1 | C14H15N3O3
